US04344888
A mixture of 1 g of anhydrous disodium hydrogenephosphate and 3.2 g of 5% sodium-amalgam was added to a solution of 160 mg of (24R)-22ξ-phenylsulfonyl-5,7-cholestadiene-3β,24,25-triol 3-tetrahydropyranyl ether in 5 ml of methanol in an argon stream under stirring, and the mixture was stirred for 30 minutes at room temperature. To the reaction mixture 10 ml of methanol was added and the precipitate was filtered. The filtrate was evaporated under reduced pressure and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydous sodium sulfate. The solvent was evaporated under reduced pressure to give 11.6 mg (93%) of (24R)-5,7-cholestadiene-3β,24,25-triol 3-tetrahydropyranyl ether.

reactant | disodium | 1 g | [Na][Na] | 2Na
reactant | (24R)-22ξ-phenylsulfonyl-5,7-cholestadiene-3β,24,25-triol 3-tetrahydropyranyl ether | 160 mg | O1CC(CCC1)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H]([C@@H](C(C[C@H](C(C)(C)O)O)S(=O)(=O)C5=CC=CC=C5)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C38H56O6S
solvent | methanol | 5 ml | CO | CH4O
catalyst | sodium-amalgam | 3.2 g | [Na].[Hg]
solvent | methanol | 10 ml | CO | CH4O
product | (24R)-5,7-cholestadiene-3β,24,25-triol 3-tetrahydropyranyl ether | 11.6 mg, 93% | O1CC(CCC1)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CC[C@H](C(C)(C)O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C32H52O4
